US07427612B2
(a) 5-Chloro-2-trifluoromethyl-pyrimidine
To a solution of 38 mmol trifluoroacetamidine in 70 ml acetonitrile was added 37.92 mmol ((Z)-2-Chloro-3-dimethylamino-allylidene)-dimethyl-ammonium hexafluoro phosphate (CAS: 291756-76-8) followed by 45.5 mmol triethylamine. The yellow solution was stirred at room temperature for 5 hours, then poured onto water and extracted 3 times with ether. The combined extracts were dried over sodium sulfate, filtered and distilled at 760 mm Hg to provide the title compound. MS (m/e): 182.2 (M+, 100%)

reactant | trifluoroacetamidine | 38 mmol | FC(C(=N)N)(F)F | C2H3F3N2
reactant | ((Z)-2-Chloro-3-dimethylamino-allylidene)-dimethyl-ammonium hexafluoro phosphate | 37.92 mmol | F[P-](F)(F)(F)(F)F.Cl\C(\C=[N+](C)C)=C/N(C)C
reactant | triethylamine | 45.5 mmol | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 70 ml | C(C)#N | C2H3N
product | 5-Chloro-2-trifluoromethyl-pyrimidine | ClC=1C=NC(=NC1)C(F)(F)F | C5H2ClF3N2
